US07312214B2
Ethyl 6-[4-(cyano-dimethyl-methyl)phenyl]-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboylate
Part D. To a DMSO (4 mL, degassed) solution of ethyl 1-(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylate (0.6 g, 1.9 mmol), and 2-(4-iodophenyl) 2-methylproprionitrile (0.6 g, 2.2 mmol), and K2CO3 (0.66 g, 4.8 mmol) and was added CuI (73 mg, 0.3 mmol). The reaction was heated to 130° C. for 18 h. The reaction was cooled, extracted with EtOAc, washed with H2O, and dried (MgSO4). Purification by chromatography on silica gel (1:1 hexanes/ethyl acetate) afforded the title compound 0.4 g (45.9%) of a pale yellow solid; Mass Spec (M+H)+ 459.3.

reactant | ethyl 1-(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylate | 1.9 mmol, 0.6 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(NCC2)=O)C(=O)OCC | C16H17N3O4
reactant | 2-(4-iodophenyl) 2-methylproprionitrile | 2.2 mmol, 0.6 g | IC1=CC=C(C=C1)C(C#N)(C)C | C10H10IN
reactant | K2CO3 | 4.8 mmol, 0.66 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | CuI | 0.3 mmol, 73 mg | [Cu]I
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | Ethyl 6-[4-(cyano-dimethyl-methyl)phenyl]-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboylate | 0.4 g, 45.9% | C(#N)C(C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(=O)OCC)=O)(C)C | C26H26N4O4
